US07713979B2
1-(Cis-4-hydroxymethyl-cyclohexyl)-pyrrolidin-2-one
Using the method of Example 167, 4-oxo-4-(2-oxo-oxazolidin-3-yl)-butyraldehyde (Dominique Urban, Troels Skrydstrup, and Jean-Marie Beau, J. Org. Chem., 1998, 63(8), 2507-2516) (4.2 g, 24.54 mmol) and (cis-4-amino-cyclohexyl)-methanol (Thomas P. Johnston, etc. J. Med. Chem., 1977, 20(2), 279-290) (3.17 g, 24.54 mmol) yield 4.87 g (100%) of the title compound as a colorless oil.

reactant | 4-oxo-4-(2-oxo-oxazolidin-3-yl)-butyraldehyde | 24.54 mmol, 4.2 g | O=C(CCC=O)N1C(OCC1)=O | C7H9NO4
reactant | (cis-4-amino-cyclohexyl)-methanol | 24.54 mmol, 3.17 g | N[C@H]1CC[C@H](CC1)CO | C7H15NO
product | 1-(Cis-4-hydroxymethyl-cyclohexyl)-pyrrolidin-2-one | OC[C@H]1CC[C@H](CC1)N1C(CCC1)=O | C11H19NO2
